US06258824B1
6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H -imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-methyl-1H-quinolin-2-one
4-(3-Chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-1H-quinolin-2-one (2 g, 4.08 mmol) was dissolved in 25 ml of thionyl chloride (SOCl2) and stirred at room temperature under an atmosphere of dry N2 for 2 hours. Thiony chloride was removed under reduced pressure. The crude chloride was taken up in toluene and concentrated under vacuum. The resulting solid was dissolved in THF (20 mL) and to this solution was bubbled ammonia gas (NH3) for 30 minutes. The reaction mixture was stirred at ambient temperature under an atmosphere of NH3 for 15 hours. After removal of THF, the product mixture was partitioned between CHCl3 and water. The organic layer was washed, dried over MgSO4 and concentrated under vacuum to give a brown solid. This was chromatographed on silica gel with CHCl3 then MeOH—CHCl3—NH4OH (1:99:0.1) as eluents to afford the titled compound as a white solid (1.065 g, 2.02 mmol, 50% yield).

reactant | 4-(3-Chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-1H-quinolin-2-one | 4.08 mmol, 2 g | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1C=NC(=CC1)Cl)C)=O | C26H20Cl2N4O2
reactant | MeOH CHCl3 NH4OH | CO.C(Cl)(Cl)Cl.[NH4+].[OH-]
solvent | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H -imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-methyl-1H-quinolin-2-one | 2.02 mmol, 1.065 g, 50% yield | NC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl | C26H21Cl2N5O
